US04508734
At room temperature, 6.4 g of 3-chloro-4-(4-chlorophenoxy)aniline is dissolved in 50 ml of toluene. Subsequently, 4.7 g of 2,6-difluorobenzoyl isocyanate is dripped in, whereupon the temperature rises by 15° C. The mixture is then stirred for 1 hour at 50° C. and allowed to cool; the precipitate is then filtered off. There is obtained 8.5 g of N-(2,6-difluorobenzoyl)-N'-[4-(4-chlorophenoxy)-3-chlorophenyl]-urea of m.p. 194°-196° C.

reactant | 3-chloro-4-(4-chlorophenoxy)aniline | 6.4 g | ClC=1C=C(N)C=CC1OC1=CC=C(C=C1)Cl | C12H9Cl2NO
reactant | 2,6-difluorobenzoyl isocyanate | 4.7 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-difluorobenzoyl)-N'-[4-(4-chlorophenoxy)-3-chlorophenyl]-urea | 8.5 g | FC1=C(C(=O)NC(=O)NC2=CC(=C(C=C2)OC2=CC=C(C=C2)Cl)Cl)C(=CC=C1)F | C20H12Cl2F2N2O3
